US07423185B2
(4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2,3′,5′-trimethylbiphenyl-4-yloxy)acetic Acid (compound 145)
A mixture of 4-{(1R,2S)-2-[2-(4-bromo-2,6-dimethylphenoxy)ethylamino]-1-hydroxypropyl}phenol (0.03 g), [3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) phenoxy]acetic acid (0.045 g), tetrakis(triphenylphosphine)-palladium (0.0046 g), cesium fluoride (0.069 g), 1,4-dioxane (0.75 mL), ethanol (0.25 mL) and water (0.15 mL) was stirred at 100° C. overnight. After being cooled to room temperature, the reaction mixture was diluted with tetrahydrofuran (2.5 mL). The crude product was purified firstly by SCX ion exchange column chromatography (Argonaut 1 g, preconditioning: tetrahydrofuran, washing solvent:tetrahydrofuran, eluent:2 mol/L ammonia in methanol), and then by reverse phase column chromatography (Shiseido Capcell Pak C18 ODS, 5 μm, 120 Å, 20×50 mm, linear gradient 0.1% aqueous formic acid/acetonitrile=90/10-60/40) to afford the title compound (0.0085 g) as a white amorphous. The structure and physical data were shown in table 2.

reactant | 4-{(1R,2S)-2-[2-(4-bromo-2,6-dimethylphenoxy)ethylamino]-1-hydroxypropyl}phenol | 0.03 g | BrC1=CC(=C(OCCN[C@H]([C@H](O)C2=CC=C(C=C2)O)C)C(=C1)C)C | C19H24BrNO3
reactant | [3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) phenoxy]acetic acid | 0.045 g | CC=1C=C(OCC(=O)O)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO5
reactant | cesium fluoride | 0.069 g | [F-].[Cs+]
reactant | 1,4-dioxane | 0.75 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.0046 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 0.15 mL | O | H2O
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | (4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2,3′,5′-trimethylbiphenyl-4-yloxy)acetic Acid | 0.0085 g | O[C@@H]([C@H](C)NCCOC1=C(C=C(C=C1C)C1=C(C=C(C=C1)OCC(=O)O)C)C)C1=CC=C(C=C1)O | C28H33NO6
